US07846956B2
0.77 g of (1-t-butyl-1H-pyrazol-4-yl)methanol was dissolved in 25 ml of dichloromethane, and 1.7 ml of thionyl chloride was added. The mixture was stirred at room temperature for 5 hours. Thereafter, the reaction mixture was concentrated under reduced pressure to obtain 1.12 g of 1-t-butyl-4-(chloromethyl)-1H-pyrazole hydrochloride.

reactant | (1-t-butyl-1H-pyrazol-4-yl)methanol | 0.77 g | C(C)(C)(C)N1N=CC(=C1)CO | C8H14N2O
reactant | thionyl chloride | 1.7 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 1-t-butyl-4-(chloromethyl)-1H-pyrazole hydrochloride | 1.12 g | Cl.C(C)(C)(C)N1N=CC(=C1)CCl | InChI=1S/C8H13ClN2.ClH/c1-8(2,3)11-6-7(4-9)5-10-11;/h5-6H,4H2,1-3H3;1H
